US05219886
N-(2-ACETYLTHIOMETHYL-3-PHENYLPROPANOYL)-β-(2-NAPHTHYL)-β-ALANINE METHYL ESTER
Mix equimolar parts of β-(2-naphthyl)-β-alanine methyl ester, hydrochloride and 2-acetylthiomethyl-3-phenylpropanoic acid with 1.2 equivalents each of EDC, triethylamine and HOBT in DMF and stir overnight. Evaporate the solvent, partition between EtOAc and water, and concentrate the organic layer. Separate on silica using ether/hexane and crystallize from acetone/hexane to obtain the title compound, m.p. 133°-135° C.

reactant | β-(2-naphthyl)-β-alanine methyl ester, hydrochloride | Cl.COC(CC(N)C1=CC2=CC=CC=C2C=C1)=O
reactant | 2-acetylthiomethyl-3-phenylpropanoic acid | C(C)(=O)SCC(C(=O)O)CC1=CC=CC=C1 | C12H14O3S
reactant | EDC | 1.2 equivalents
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-(2-ACETYLTHIOMETHYL-3-PHENYLPROPANOYL)-β-(2-NAPHTHYL)-β-ALANINE METHYL ESTER | COC(CC(NC(C(CC1=CC=CC=C1)CSC(C)=O)=O)C1=CC2=CC=CC=C2C=C1)=O | C26H27NO4S
